US08168678B2
Step 2: (2′-{[Acetyl-(2,2,2-trifluoro-ethyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
Prepared according to the procedure described in Example 1, Step 6 and Step 7, using the following starting materials: {6-methoxy-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and acetyl chloride.

reactant | {6-methoxy-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC(F)(F)F)=O | C20H19F6NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (2′-{[Acetyl-(2,2,2-trifluoro-ethyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C)(=O)N(CC(F)(F)F)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C21H19F6NO4
